US03996374
A solution of 3.4 g. of 5-chloro-2-(2-hydroxyethyl)-3-phenylisoindole-1-carboxylic acid ethyl ester and 3.4 ml. of triethylamine in 60 ml. of methylene chloride is treated dropwise at 15°-20° C. with 1.6 ml. of methane sulfochloride. The mixture is subsequently left standing for 30 minutes at room temperature, then diluted with methylene chloride to three times the volume. The solution is washed successively with water, 0.5-N hydrochloric acid, 5% sodium bicarbonate solution and again with water. After drying over sodium sulfate and evaporation of the solution, there is obtained 5-chloro-2-{2-[(methylsulfonyl)oxy]ethyl}-3-phenylisoindole-1-carboxylic acid ethyl ester; melting point 125°-127° C. Recrystallization from methylene chloride/hexane does not increase the melting point.

reactant | 5-chloro-2-(2-hydroxyethyl)-3-phenylisoindole-1-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)CCO | C19H18ClNO3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | methane sulfochloride | S(=O)(=O)(O)Cl.C
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-chloro-2-{2-[(methylsulfonyl)oxy]ethyl}-3-phenylisoindole-1-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)CCOS(=O)(=O)C | C20H20ClNO5S
